US09035053B2
Step 2: tert-Butyl N-[[4-(diethoxymethyl)phenyl]methyl]-N-methyl-carbamate
A 1-L glass-jacketed reactor was fitted with an overhead stirrer, thermocouple, and chiller. A solution of 1-[4-(diethoxymethyl)phenyl]-N-methyl-methanamine (80.0 g, 358.2 mmol) in DCM (480.0 mL) was stirred at 18° C. A solution of Boc anhydride (79.75 g, 83.95 mL, 365.4 mmol) in DCM (160.0 mL) was added over 10 minutes and the solution was stirred at 20-25° C. overnight. The reaction mixture was filtered, rinsed with DCM (3×50 mL) and the filtrate concentrated in vacuo to afford give the title compound as a pale yellow liquid (116.6 g, quantitative yield); 1H NMR (400 MHz, CDCl3) δ 1.25 (t, 6H), 1.49-1.54 (2×s, 9H), 2.78-2.83 (2×s, 3H), 3.50-3.66 (m, 4H), 4.42 (s, 2H), 5.49 (s, 1H), 7.22 (d, 2H) and 7.45 (d, 2H) ppm.

reactant | 1-[4-(diethoxymethyl)phenyl]-N-methyl-methanamine | 358.2 mmol, 80.0 g | C(C)OC(C1=CC=C(C=C1)CNC)OCC | C13H21NO2
reactant | Boc anhydride | 365.4 mmol, 83.95 mL, 79.75 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 480.0 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 160.0 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl N-[[4-(diethoxymethyl)phenyl]methyl]-N-methyl-carbamate | 116.6 g, quantitative yield | C(C)OC(C1=CC=C(C=C1)CN(C(OC(C)(C)C)=O)C)OCC | C18H29NO4
